* NGSPICE file created from param_counter.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o221a_1 abstract view
.subckt sky130_fd_sc_hd__o221a_1 A1 A2 B1 B2 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2_1 abstract view
.subckt sky130_fd_sc_hd__nand2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2_1 abstract view
.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a2bb2o_1 abstract view
.subckt sky130_fd_sc_hd__a2bb2o_1 A1_N A2_N B1 B2 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a41o_1 abstract view
.subckt sky130_fd_sc_hd__a41o_1 A1 A2 A3 A4 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_16 abstract view
.subckt sky130_fd_sc_hd__clkbuf_16 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o211a_1 abstract view
.subckt sky130_fd_sc_hd__o211a_1 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand4_1 abstract view
.subckt sky130_fd_sc_hd__nand4_1 A B C D VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlymetal6s2s_1 abstract view
.subckt sky130_fd_sc_hd__dlymetal6s2s_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o31a_1 abstract view
.subckt sky130_fd_sc_hd__o31a_1 A1 A2 A3 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21o_1 abstract view
.subckt sky130_fd_sc_hd__a21o_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21oi_1 abstract view
.subckt sky130_fd_sc_hd__a21oi_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dfrtp_1 abstract view
.subckt sky130_fd_sc_hd__dfrtp_1 CLK D RESET_B VGND VNB VPB VPWR Q
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

.subckt param_counter VGND VPWR clk count[0] count[1] count[2] count[3] en load load_value[0]
+ load_value[1] load_value[2] load_value[3] rst_n
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput8 net8 VGND VGND VPWR VPWR count[0] sky130_fd_sc_hd__buf_2
Xoutput10 net10 VGND VGND VPWR VPWR count[2] sky130_fd_sc_hd__buf_2
Xoutput11 net11 VGND VGND VPWR VPWR count[3] sky130_fd_sc_hd__buf_2
Xoutput9 net9 VGND VGND VPWR VPWR count[1] sky130_fd_sc_hd__buf_2
X_29_ _04_ net6 _08_ _14_ _13_ VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__o221a_1
XFILLER_0_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_28_ net10 net11 VGND VGND VPWR VPWR _14_ sky130_fd_sc_hd__nand2_1
XFILLER_3_28 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_2_17 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_27_ net11 _12_ VGND VGND VPWR VPWR _13_ sky130_fd_sc_hd__or2_1
X_26_ _11_ _12_ net2 net5 VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__a2bb2o_1
X_25_ net1 net8 net9 net10 net12 VGND VGND VPWR VPWR _12_ sky130_fd_sc_hd__a41o_1
XPHY_EDGE_ROW_3_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_1_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_24_ net10 _10_ VGND VGND VPWR VPWR _11_ sky130_fd_sc_hd__nor2_1
Xclkbuf_0_clk clk VGND VGND VPWR VPWR clknet_0_clk sky130_fd_sc_hd__clkbuf_16
XFILLER_7_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_23_ net12 net1 net8 net9 VGND VGND VPWR VPWR _10_ sky130_fd_sc_hd__o211a_1
XPHY_EDGE_ROW_7_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_22_ _04_ net4 _08_ _09_ VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__o211a_1
XPHY_EDGE_ROW_0_Left_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_21_ _05_ _06_ VGND VGND VPWR VPWR _09_ sky130_fd_sc_hd__nand2_1
X_20_ _04_ net1 net8 net9 VGND VGND VPWR VPWR _08_ sky130_fd_sc_hd__nand4_1
Xfanout12 net2 VGND VGND VPWR VPWR net12 sky130_fd_sc_hd__clkbuf_2
XFILLER_1_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput1 en VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__buf_1
Xinput2 load VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__clkbuf_1
Xinput4 load_value[1] VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__clkbuf_1
XFILLER_4_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput3 load_value[0] VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__clkbuf_1
XTAP_TAPCELL_ROW_0_16 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_7_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xinput5 load_value[2] VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__clkbuf_1
XPHY_EDGE_ROW_2_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput6 load_value[3] VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__clkbuf_1
XFILLER_1_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_1_Left_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_6_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput7 rst_n VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__dlymetal6s2s_1
XTAP_TAPCELL_ROW_6_19 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xclkbuf_1_0__f_clk clknet_0_clk VGND VGND VPWR VPWR clknet_1_0__leaf_clk sky130_fd_sc_hd__clkbuf_16
XTAP_TAPCELL_ROW_7_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_19_ net12 net1 net8 _07_ VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__o31a_1
X_18_ net12 net3 _06_ VGND VGND VPWR VPWR _07_ sky130_fd_sc_hd__a21o_1
X_17_ net1 net8 net12 VGND VGND VPWR VPWR _06_ sky130_fd_sc_hd__a21oi_1
X_33_ clknet_1_1__leaf_clk _03_ net7 VGND VGND VPWR VPWR net11 sky130_fd_sc_hd__dfrtp_1
Xclkbuf_1_1__f_clk clknet_0_clk VGND VGND VPWR VPWR clknet_1_1__leaf_clk sky130_fd_sc_hd__clkbuf_16
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_16_ net9 VGND VGND VPWR VPWR _05_ sky130_fd_sc_hd__inv_2
X_32_ clknet_1_0__leaf_clk _02_ net7 VGND VGND VPWR VPWR net10 sky130_fd_sc_hd__dfrtp_1
XPHY_EDGE_ROW_5_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_31_ clknet_1_1__leaf_clk _01_ net7 VGND VGND VPWR VPWR net9 sky130_fd_sc_hd__dfrtp_1
XFILLER_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_15_ net12 VGND VGND VPWR VPWR _04_ sky130_fd_sc_hd__inv_2
X_30_ clknet_1_0__leaf_clk _00_ net7 VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__dfrtp_1
XFILLER_0_6 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_4_18 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_4_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
.ends

